* C:\Users\Raul Alzate\Desktop\Tentactil\Circuits_Electronics\Regulador5V\Regulador5V.asc
XU1 ref 0 cat TL431
XU2 Vi cat vo irf8010pbf
V1 Vi 0 13 Rser=.1
R1 vo ref 10k
R2 ref 0 10k
R3 Vi cat 1k
R4 vo 0 1k
.dc V1 3 30 0.5
.lib C:\Users\Raul Alzate\Desktop\Tentactil\Circuits_Electronics\Regulador5V\irf8010pbf.spi
.lib C:\Users\Raul Alzate\Desktop\Tentactil\Circuits_Electronics\Regulador5V\tl431.txt
.backanno
.end
